US08039493B2
To a stirred suspension of 1-(5-bromo-2-thienyl)-methanamine (0.5 g) in dichloromethane (8 mL) were added 2-(trifluoromethyl)-benzenesulfonyl chloride (0.67 g) and N-ethyl-diisopropylamine (0.37 g) at 0° C. After stirring for 10 min, the ice bath was removed and the mixture was stirred for 40 min. The reaction mixture was diluted with dichloromethane and washed with 0.5 M HCl and with water. The organic phase was dried (MgSO4), filtered and concentrated. The residue was suspended in cyclohexane. The solid was collected by filtration and dried to give N-(5-bromo-thiophen-2-ylmethyl)-2-trifluoromethyl-benzenesulfonamide (0.596 g) as a colorless solid. MS: 417.1 ([M+NH4]+)

reactant | 1-(5-bromo-2-thienyl)-methanamine | 0.5 g | BrC1=CC=C(S1)CN | C5H6BrNS
reactant | 2-(trifluoromethyl)-benzenesulfonyl chloride | 0.67 g | FC(C1=C(C=CC=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | N-ethyl-diisopropylamine | 0.37 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | N-(5-bromo-thiophen-2-ylmethyl)-2-trifluoromethyl-benzenesulfonamide | 0.596 g | BrC1=CC=C(S1)CNS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C12H9BrF3NO2S2
